US07932272B2
2-(4-Phenoxy-thiophen-2-yl)-[1,3]dioxolane described in Preparation Example 109 (4.88 g, 19.7 mmol) and N-bromosuccinimide (3.85 g, 21.7 mmol) were dissolved in tetrahydrofuran (100 mL), and the solution was stirred for 4.5 hours at room temperature. An aqueous solution of saturated sodium bicarbonate was added to the reaction solution at 0° C., which was then extracted with ethyl acetate, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, and the residue was silica gel-filtered to obtain 2-(5-bromo-4-phenoxy-thiophen-2-yl)-[1,3]dioxolane (5.48 g) as a pale yellow oil.

reactant | 2-(4-Phenoxy-thiophen-2-yl)-[1,3]dioxolane | O(C1=CC=CC=C1)C=1C=C(SC1)C1OCCO1 | C13H12O3S
reactant | N-bromosuccinimide | 21.7 mmol, 3.85 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(5-bromo-4-phenoxy-thiophen-2-yl)-[1,3]dioxolane | 5.48 g | BrC1=C(C=C(S1)C1OCCO1)OC1=CC=CC=C1 | C13H11BrO3S
